US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid(3-methoxy-phenyl)-amide
87 mg (0.708 mmol, 1.0 equiv) DMAP were added to a room temperature solution of 196 mg (0.708 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride, 99μL (0.708 mmol, 1.0 equiv) triethylamine and 80 μL (0.708 mmol, 1.0 equiv) m-anisidine in 5 mL CH2Cl2. After 48 hours, the reaction mixture was diluted with 75 mL ethyl acetate, washed 2×15 mL 1N HCl, 1×15 mL H2O, 1×15 mL brine, and dried over MgSO4. Filtration, concentration of filtrate and drying gave 0.27 g of an amber solid, which was purified by silica gel chromatography (ethyl acetate/hexanes gradient 10% (20%) to give 118 mg of a clear oil. Crystallization from petroleum ether gave 75 mg (29%) of a white powder: mp 91-93° C.; Anal. calcd for C22H25N3O2: C, 72.71; H, 6.95; N, 11.56. Found: C, 72.35; H, 7.15; N, 11.47.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride | 0.708 mmol, 196 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)Cl)CC | C15H17ClN2O
reactant | triethylamine | 0.708 mmol, 99μL, 1.0 equiv | C(C)N(CC)CC | C6H15N
reactant | m-anisidine | 0.708 mmol, 80 μL, 1.0 equiv | COC1=CC(=CC=C1)N | C7H9NO
catalyst | DMAP | 0.708 mmol, 87 mg, 1.0 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid(3-methoxy-phenyl)-amide | 0.27 g | COC=1C=C(C=CC1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C22H25N3O2
